US06140274
To a mixture of 0.30 g of 4-(3,3-dichloro-2-propenyloxy)butanol, 0.43 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 0.39 g of triphenylphosphine and 15 ml of tetrahydrofuran was slowly added dropwise 0.30 g of diisopropyl azodicarboxylate with stirring under ice cooling. After stirring at room temperature for 24 hours, the reaction mixture was concentrated. The residue was subjected to silica gel chromatography, which afforded 0.34 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3,3-dichloro-2-propenyloxy)butyloxy)benzene (yield, 73%), nD24.5 1.5519.

reactant | 4-(3,3-dichloro-2-propenyloxy)butanol | 0.30 g | ClC(=CCOCCCCO)Cl | C7H12Cl2O2
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.43 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | triphenylphosphine | 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.30 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3,3-dichloro-2-propenyloxy)butyloxy)benzene | 0.34 g, 73% | ClC=1C=C(C=C(C1OCCCCOCC=C(Cl)Cl)Cl)OCC=C(Cl)Cl | C16H16Cl6O3
